US07569578B2
(±)-N-(1-([1,2,4]Triazolo [4,3-a]pyridin-3-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
A stirred solution of 1-([1,2,4]triazolo[4,3-a]pyridine-3-yl)-2-(7-methyl-1H-indazol-5-yl)ethanamine (30 mg, 0.1 mmol) in dimethylformamide (1.0 mL) at 0° C. was treated with carbonyl diimidazole (17.5 mg, 1.1 equiv). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred for 10 min, and treated with 8-fluoro-3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (26.0 mg, 1.1 equiv). The mixture was then stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to afford 30 mg (53%). 1H-NMR (CD3OD, 300 MHz) δ 1.25-1.60 (m, 5H), 2.50 (s, 3H), 2.67-2.81 (m, 2H), 3.60 (s, 1H), 3.62 (s, 1H), 3.12-4.18 (m, 4H), 4.25-4.45 (m, 1H), 5.80 (dd, J=8.1, 8.1, 1H), 6.08-7.04 (m, 4H), 7.10 (s, 1H), 7.35-7.44 (s, 1H), 7.49 (s, 1H), 7.70 (m, 1H), 7.96 (s, 1H), 8.41 (d, J=7.0, 1H). Mass spec.: 568.10 (MH)+.

reactant | 1-([1,2,4]triazolo[4,3-a]pyridine-3-yl)-2-(7-methyl-1H-indazol-5-yl)ethanamine | 0.1 mmol, 30 mg | N=1N=C(N2C1C=CC=C2)C(CC=2C=C1C=NNC1=C(C2)C)N | C16H16N6
reactant | carbonyl diimidazole | 17.5 mg, 1.1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 8-fluoro-3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 26.0 mg, 1.1 equiv | FC=1C=CC=C2CN(C(NC12)=O)C1CCNCC1 | C13H16FN3O
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-N-(1-([1,2,4]Triazolo [4,3-a]pyridin-3-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | N=1N=C(N2C1C=CC=C2)C(CC=2C=C1C=NNC1=C(C2)C)NC(=O)N2CCC(CC2)N2C(NC1=C(C=CC=C1C2)F)=O | C30H30FN9O2
